US05530138
N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl-N-formylaniline
The procedures described in Example 2 were repeated except that formanilide (1.80 g, 14.9 mmol) and 5-(2-chloroethyl)-1-azabicyclo[3.3.0]octane (hydrochloride, 3.43 g, 16.3 mmol ) were employed. In this case, the desired compound was obtained as a pale yellow liquid (3.39 g, 88.1 %).

reactant | formanilide | 14.9 mmol, 1.80 g | C(=O)NC1=CC=CC=C1 | C7H7NO
reactant | 5-(2-chloroethyl)-1-azabicyclo[3.3.0]octane | 16.3 mmol, 3.43 g | ClCCC12CCCN2CCC1 | C9H16ClN
product | 2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl-N-formylaniline | N12CCCC2(CCC1)CCN(C1=CC=CC=C1)C=O | C16H22N2O
